US09102692B2
A mixture consisting of [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-butoxy-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (70 mg), dioxane (3 ml), and an aqueous solution of 5 M sodium hydroxide (300 μl) was stirred under reflux for two hours. The reaction mixture was cooled in an ice bath, and acidified with an aqueous solution of 5 M hydrochloric acid. The solvent was distilled off under reduced pressure. Water was added to the residue obtained by concentration under reduced pressure. The solid was collected by filtration, washed with water, and dried to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(5-butoxy-1H-indol-2-yl)-methanone (35 mg, 65%).

reactant | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-butoxy-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 70 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)OCCCC)S(=O)(=O)C1=CC=C(C=C1)C | C31H30N6O4S
reactant | sodium hydroxide | 5 M, 300 μl | [OH-].[Na+]
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(5-butoxy-1H-indol-2-yl)-methanone | 35 mg, 65% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC=C(C=C2C1)OCCCC | C24H24N6O2
